US03974161
B. 6,7-Dimethoxy-2-Aminoquinoline-3-Carboxamide
Iron powder (65.2 g., 1.22 moles) is added over a period of one-half hour to a slurry of α-cyano-β-(2-nitro-4,5-dimethoxyphenyl)acrylamide (75.0g., 0.271 mole) in a 50% solution of acetic acid-N,N-dimethylformamide (750 ml.) at 75°C. When addition of the iron powder is complete, the mixture is heated to 90°C. for 4 hours and then filtered while hot. The filter cake is washed with hot acetic acid (150 ml.). The dark red filtrate is gradually added to IN hydrochloric acid (1500 ml.) and the pink precipitate recovered by filtration and recrystallized from an excess (10%) of aqueous sodium hydroxide. The solid is filtered, washed with cold isopropanol and dried to give the title product as yellow crystals. Yield = 57.1 g. (83.5%); mpp. 274°-275°C.

reactant | α-cyano-β-(2-nitro-4,5-dimethoxyphenyl)acrylamide | 0.271 mole, 75.0g | C(#N)C(C(=O)N)=CC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C12H11N3O5
catalyst | Iron | 1.22 moles, 65.2 g | [Fe] | Fe
solvent | acetic acid N,N-dimethylformamide | 750 ml | C(C)(=O)O.CN(C=O)C
product | 6,7-Dimethoxy-2-Aminoquinoline-3-Carboxamide | COC=1C=C2C=C(C(=NC2=CC1OC)N)C(=O)N | C12H13N3O3
